US05059609
6-Benzyloxy-3-(1-imidazolyl)methyl-4-chromanone
A solution of 3.7 g of 6-benzyloxy-3-methylene-4-chromanone and 3.7 g of imidazole in 50 cc of DMF was heated at 60° C. for 1.5 hours. The reaction was allowed to cool, then poured into water and extracted with ethyl acetate. The combined organic layers were dried over Na and evaporated to give 4 g of crude product which was purified by recrystallization from CH2Cl2 /ether to give 3 g of title product, m.p. 108°-110° C. MS calculated for C20H18N2O3 : 334.1317; found: 334.1317.

reactant | 6-benzyloxy-3-methylene-4-chromanone | 3.7 g | C(C1=CC=CC=C1)OC=1C=C2C(C(COC2=CC1)=C)=O | C17H14O3
reactant | imidazole | 3.7 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | DMF | 50 cc | CN(C)C=O | C3H7NO
product | 6-Benzyloxy-3-(1-imidazolyl)methyl-4-chromanone | 3 g | C(C1=CC=CC=C1)OC=1C=C2C(C(COC2=CC1)CN1C=NC=C1)=O | C20H18N2O3
